US08003649B2
A mixture of 4-(6-methoxypyridin-3-yl)piperidin-4-ol and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by the method of Example 306 to give 4-(6-methoxypyridin-3-yl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol in 58% yield.

reactant | 4-(6-methoxypyridin-3-yl)piperidin-4-ol | COC1=CC=C(C=N1)C1(CCNCC1)O | C11H16N2O2
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 4-(6-methoxypyridin-3-yl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 58% yield | COC1=CC=C(C=N1)C1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)O | C17H17F3N6O2
